US04711903
[[3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-2-hydroxypropyl]thio]acetic acid
Mercaptoacetic acid (1.32 g, 0.0144 mole) was added to a solution of ethyl alcohol (100 ml) containing sodium (0.66 g, 0.029 mole). The solution was stirred for 30 minutes and epichlorohydrin (1.33 g, 0.0144 mole) was added by syringe. A solution of the sodium salt of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol prepared from 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (3.43 g, 0.0144 mole) and sodium (0.33 g, 0.0144 mole) in ethyl alcohol (50 ml) was added dropwise and the reaction stirred for 72 hours at room temperature. Water (50 ml) was added and the ethyl alcohol removed using a rotary evaporator. The product was extracted into ethyl acetate, dried over sodium sulfate, filtered and concentrated. The product was isolated as an oil by chromatography on silica. The structure was confirmed by its NMR and IR spectra.

reactant | Mercaptoacetic acid | 0.0144 mole, 1.32 g | SCC(=O)O | C2H4O2S
reactant | sodium | 0.029 mole, 0.66 g | [Na] | Na
reactant | epichlorohydrin | 0.0144 mole, 1.33 g | C(Cl)C1CO1 | C3H5ClO
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.0144 mole, 3.43 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | sodium | 0.0144 mole, 0.33 g | [Na] | Na
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
solvent | Water | 50 ml | O | H2O
product | [[3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-2-hydroxypropyl]thio]acetic acid | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCC(CSCC(=O)O)O | C19H30O4S2
